US05151518
Synthesis of N phenyl 5 cyanoisatin
5-cyanoisatin [prepared by the method of Gassman, et. al., J. Org. Chem., 42, 1344 (1977)](50 mg, 0.29 mmoles), triphenyl bismuth diacetate (300 mq) and copper powder (3 mg) were added to 10 mL of methylene chloride (freshly distilled). The reaction mixture was heated to reflux under nitrogen for a total of 16 hours during which additional triphenyl bismuth diacetate (95 mg) was added at four hour intervals. The product was isolated after evaporating the reaction mixture to dryness then purifying by preparative TLC as in example 2.

reactant | 5-cyanoisatin | C(#N)C=1C=C2C(C(NC2=CC1)=O)=O | C9H4N2O2
reactant | triphenyl bismuth diacetate | C(C)(=O)O.C(C)(=O)O.C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper | 3 mg | [Cu] | Cu
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | phenyl 5 cyanoisatin | C1(=CC=CC=C1)N1C(=O)C(=O)C2=CC(=CC=C12)C#N | C15H8N2O2
